US07741320B2
Step C: 6,7-dichloro-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
In a round-bottom flask, a mixture of 4,5-dichloro-2-cyclopropylaminobenzenesulphonamide from the Step above (2.5 g) and ethyl orthoformate (25 mL) is heated in the open state at 150° C. for 1 hour. The suspension obtained is cooled on an ice bath, and the insoluble material is collected by filtration, washed with ether and dried. The solid is re-dissolved in a mixture of acetone and methanol in the hot state and the hot solution is treated with absorbent carbon and then filtered and concentrated to dryness. The residue is recrystallised from methanol.

reactant | 4,5-dichloro-2-cyclopropylaminobenzenesulphonamide | ClC1=CC(=C(C=C1Cl)S(=O)(=O)N)NC1CC1 | C9H10Cl2N2O2S
reactant | ethyl orthoformate | 25 mL | C(OCC)([O-])[O-]
product | 6,7-dichloro-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(N(C=NS2(=O)=O)C2CC2)C1)Cl | C10H8Cl2N2O2S
